US06004977
(3,4-Dihydro-6-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine hydrochloride
Lithium aluminum hydride (0.55 g) was added portionwise to a suspension of N-[2-(3-methoxyphenyl)ethylidene]-N'-pyridin-4-yl hydrazone (2.0 g) in tetrahydrofuran (36 ml) at 0° C. The reaction mixture was stirred at ambient temperature for 1 hr, sodium sulfate decahydrate was added. The mixture was filtered, and the filtrate was concentrated to give 1.73 g of N-[2-(3-methoxyphenyl)ethyl]-N'-pyridin-4-yl hydrazine. A solution of N-[2-(3-methoxyphenyl)ethyl]-N'-pyridin-4-yl hydrazine (0.85 g) and chloromethyl methyl ether (0.31 g) in acetic acid (15 ml) was heated at 55° C. for 1.5 hrs, and the mixture was cooled to 0° C. Sodium hydroxide solution (15%) was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in methanol and methanolic hydrogen chloride and then ether were added to give 0.31 g (30%) of product, mp 199-200° C.

reactant | N-[2-(3-methoxyphenyl)ethyl]-N'-pyridin-4-yl hydrazine | 0.85 g | COC=1C=C(C=CC1)CCNNC1=CC=NC=C1 | C14H17N3O
reactant | chloromethyl methyl ether | 0.31 g | COCCl | C2H5ClO
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | (3,4-Dihydro-6-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine hydrochloride | 0.31 g, 30% | Cl.COC=1C=C2CCN(CC2=CC1)NC1=CC=NC=C1 | InChI=1S/C15H17N3O.ClH/c1-19-15-3-2-13-11-18(9-6-12(13)10-15)17-14-4-7-16-8-5-14;/h2-5,7-8,10H,6,9,11H2,1H3,(H,16,17);1H
